US06924400B2
(a) 1-(4-Bromo-3-methylphenyl)propan-1-one
24.7 g (126 mmol) of 4-bromo-3-methylbenzonitrile are dissolved in 400 ml of anhydrous dioxane and the medium is then cooled to 0° C. 124 ml (372 mmol) of ethylmagnesium bromide are added dropwise and the medium is then warmed to room temperature and stirred for 4 hours. The reaction medium is treated with 250 ml of 3N HCl and then extracted with a water/ether mixture. A white solid is obtained after trituration from heptane (m=14.5 g, Y=52%).

reactant | 4-bromo-3-methylbenzonitrile | 126 mmol, 24.7 g | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | ethylmagnesium bromide | 372 mmol, 124 ml | C(C)[Mg]Br
reactant | HCl | 3N, 250 ml | Cl | ClH
reactant | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 1-(4-Bromo-3-methylphenyl)propan-1-one | BrC1=C(C=C(C=C1)C(CC)=O)C | C10H11BrO
